US08232403B2
To a solution of 2-[N-(cyclopentylmethyl)-N-ethylamino]quinoline-3-carbaldehyde (25 mg, 0.088 mmol) in ethanol (1 mL) is added sodium borohydride (5 mg, 0.13 mmol) and the mixture is stirred for 1 hour. After addition of sat. ammonium chloride and water, the mixture is extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated to give {2-[N-(cyclopentylmethyl)-N-ethylamino]quinolin-3-yl}methanol, which is used without further purification.

reactant | 2-[N-(cyclopentylmethyl)-N-ethylamino]quinoline-3-carbaldehyde | 0.088 mmol, 25 mg | C1(CCCC1)CN(CC)C1=NC2=CC=CC=C2C=C1C=O | C18H22N2O
reactant | sodium borohydride | 0.13 mmol, 5 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | {2-[N-(cyclopentylmethyl)-N-ethylamino]quinolin-3-yl}methanol | C1(CCCC1)CN(CC)C1=NC2=CC=CC=C2C=C1CO | C18H24N2O
